US06992188B1
1-(1-Ethyl-propyl)-6,7-dimethyl-4-(2,4,6-trimethyl-phenoxy)-1H-[1,2,3]triazolo[4,5-c]pyridine
To a −78° C. solution of 7-bromo-1-(1-ethyl-propyl)-6-methyl-4-(2,4,6-trimethyl-phenoxy)-1H-[1,2,3]triazolo[4,5-c]pyridine (33 mg, 0.079 mmol) in 2 ml of dry THF was added 2.5 M nBuLi in hexane (0.047 ml, 0.019 mmol) and stirred at that temperature for 5 min. An excess of MeI (0.5 ml) was added and the mixture was stirred at that temperature for 15 min, then gradually warmed to room temperature for 1 hour. The mixture was quenched with saturated ammonium chloride and extracted with ethyl acetate. The organic layer was dried and concentrated to give 31 mg of a golden oil. The oil was purified through silica gel column chromatography using 5% ethyl acetate in hexane as eluent to give the title compound as white crystals. Mp 127–129° C.; 1H NMR (CDCl3) δ 6.91 (s,2H), 4.83(m,1H), 2.51(s,3H), 2.38(s,3H), 2.33(s,3H), 2.13(s,6H), 2.3–2.5(m,2H), 1.9–2.2(m,2H), 0.86(t,6H) ppm.

reactant | 7-bromo-1-(1-ethyl-propyl)-6-methyl-4-(2,4,6-trimethyl-phenoxy)-1H-[1,2,3]triazolo[4,5-c]pyridine | 0.079 mmol, 33 mg | BrC=1C2=C(C(=NC1C)OC1=C(C=C(C=C1C)C)C)N=NN2C(CC)CC | C20H25BrN4O
reactant | nBuLi | 2.5 M | [Li]CCCC
reactant | hexane | 0.019 mmol, 0.047 ml | CCCCCC | C6H14
reactant | MeI | 0.5 ml | CI | CH3I
solvent | THF | 2 ml | C1CCOC1 | C4H8O
product | 1-(1-Ethyl-propyl)-6,7-dimethyl-4-(2,4,6-trimethyl-phenoxy)-1H-[1,2,3]triazolo[4,5-c]pyridine | 31 mg | C(C)C(CC)N1N=NC=2C(=NC(=C(C21)C)C)OC2=C(C=C(C=C2C)C)C | C21H28N4O
